US07691836B2
Preparation of (11β,16α,17β)-17-cyclopropylcarbonyl-11-[4-(6-methoxypyridin-3-yl)phenyl]-16-methylestra 4,9-dien-3-one
Reaction of (11β,16α,17β)-11-(4-bromophenyl)-17-cyclopropylcarbonyl-16-methylestra-4,9-dien-3-one and 6-methoxy-3-pyridinylboronic acid using the procedure described in example 1 step h afforded the title compound (54% yield). 1H NMR (400 MHz, CDCl3): δ 0.35 (s, 3H), 0.84-0.99 (m, 6H), 1.08-1.15 (m, 1H), 1.33-1.39 (m, 1H), 1.45-1.54 (m, 1H), 1.62-1.70 (m, 2H), 1.91-1.97 (m, 1H), 2.01-2.08 (m, 1H), 2.24-2.53 (m, 6H), 2.58-2.64 (m, 2H), 2.68-2.85 (m, 3H), 3.98 (s, 3H), 4.44 (d, J=8 Hz, 1H), 5.80 (s, 1H), 6.80 (d, J=8 Hz, 1H), 7.23 (d, J=7 Hz, 2H), 7.44 (d, J=7 Hz, 2H), 7.75-7.79 (m, 1H), 8.36-8.38 (m, 1H).

reactant | (11β,16α,17β)-11-(4-bromophenyl)-17-cyclopropylcarbonyl-16-methylestra-4,9-dien-3-one | BrC1=CC=C(C=C1)[C@@H]1C2=C3CCC(C=C3CC[C@H]2[C@@H]2C[C@H]([C@@H]([C@@]2(C)C1)C(=O)C1CC1)C)=O | C29H33BrO2
reactant | 6-methoxy-3-pyridinylboronic acid | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
product | (11β,16α,17β)-17-cyclopropylcarbonyl-11-[4-(6-methoxypyridin-3-yl)phenyl]-16-methylestra 4,9-dien-3-one | 54% yield | C1(CC1)C(=O)[C@@H]1[C@]2(C)[C@@H](C[C@H]1C)[C@@H]1CCC3=CC(CCC3=C1[C@H](C2)C2=CC=C(C=C2)C=2C=NC(=CC2)OC)=O | C35H39NO3
